US06498154B1
4-(2-Methylspiro[2H-3,1-benzoxazine-4,1′-cyclopentane]-6-yl)-2-thiophenecarbonitrile
Prepared according to the procedure for Example 13 from 2-methyl-6-bromospiro[4H-3,1-benzoxazine-4,1′-cyclopentane] and 4-bromo-2-thiophenecarbonitrile. An off-white solid: mp 103-104° C.

reactant | 2-methyl-6-bromospiro[4H-3,1-benzoxazine-4,1′-cyclopentane] | CC1=NC2=C(C=C(C=C2)Br)C2(CCCC2)O1 | C13H14BrNO
reactant | 4-bromo-2-thiophenecarbonitrile | BrC=1C=C(SC1)C#N | C5H2BrNS
product | 4-(2-Methylspiro[2H-3,1-benzoxazine-4,1′-cyclopentane]-6-yl)-2-thiophenecarbonitrile | CC1NC2=C(C=C(C=C2)C=2C=C(SC2)C#N)C2(CCCC2)O1 | C18H18N2OS
